US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(2-hydroxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (3.02 g) in acetone (15 ml) was added methyl iodide (3.36 ml) at room temperature and the solution was allowed to stand for 6 hours. The solvent was evaporated to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(2-hydroxymethyl-3-methyl-1-imidazolio)ethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (3.75 g) as a yellow solid. This compound was immediately used as the starting compound for the next step.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(2-hydroxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 3.02 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCN1C(=NC=C1)CO | C27H36N4O7S
reactant | methyl iodide | 3.36 ml | CI | CH3I
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(2-hydroxymethyl-3-methyl-1-imidazolio)ethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 3.75 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC[N+]1=C(N(C=C1)C)CO | InChI=1S/C28H39N4O7S.HI/c1-6-12-38-27(36)24-25(17(3)23-22(18(4)34)26(35)32(23)24)40-20-14-19(31(15-20)28(37)39-13-7-2)8-9-30-11-10-29(5)21(30)16-33;/h6-7,10-11,17-20,22-23,33-34H,1-2,8-9,12-16H2,3-5H3;1H/q+1;/p-1/t17-,18-,19-,20+,22-,23-;/m1./s1
